US04943591
(i) 4-(4-Morpholinyl)benzeneethanol
4-Aminobenzeneethanol (20.2 g), 2-chloroethyl ether (21.1 g), N,N-diisopropylethylamine (38.1 g) and potassium iodide (48.8 g) in DMF were heated to 80° under nitrogen for 60 h. The solvent was evaporated and the residue (~143 g) was purified by FCC eluting with ER-CX (1:1→1:0) to give the title compound as a pink-white solid (17.7 g) m.p. 57°.

reactant | 4-Aminobenzeneethanol | 20.2 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | 2-chloroethyl ether | 21.1 g | ClCCOCCCl | C4H8Cl2O
reactant | N,N-diisopropylethylamine | 38.1 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | potassium iodide | 48.8 g | [I-].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-(4-Morpholinyl)benzeneethanol | 17.7 g | N1(CCOCC1)C1=CC=C(C=C1)CCO | C12H17NO2
